US07776910B2
Trifluoroacetic acid (3.4 mL) was added to a solution of (S)-3-[4-(1H-indazole-5-sulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (193.4 mg, 0.452 mmol) in DCM (3.4 mL) under nitrogen atmosphere. The reaction mixture was stirred at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and the residue was dissolved in acetonitrile (4 mL). Formaldehyde (37% in water, 0.181 mL) was added, under nitrogen atmosphere, to this material followed by sodiumcyanoborohydride (85 mg). The reaction mixture was stirred for 1.5 hour, and then a saturated solution of Na2CO3 was then added. The mixture was extracted with DCM, and the combined organic extracts were dried over Na2SO4, filtered, and evaporated under reduced pressure. The crude material was dissolved in HCl (2 M, 10 mL) and the resulting mixture was stirred for 8 hours. Solvent was evaporated under reduced pressure and the crude residue was purified via flash chromatography (DCM/MeOH/NH4OH) to give 89.2 mg of 5-[4-((S)-1-methyl-pyrrolidin-3-yl)-benzenesulfonyl]-1H-indazole which was treated with 1,4-dioxane (2 mL) and transformed into 83.3 mg of the corresponding hydrochloride salt by addition of HCl (4 M in 1,4-dioxane, 0.84 mL). MS (M+H)=342.

reactant | Trifluoroacetic acid | 3.4 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (S)-3-[4-(1H-indazole-5-sulfonyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.452 mmol, 193.4 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C1=CC=C(C=C1)S(=O)(=O)C=1C=C2C=NNC2=CC1 | C22H25N3O4S
solvent | DCM | 3.4 mL | C(Cl)Cl | CH2Cl2
product | 5-[4-((S)-1-methyl-pyrrolidin-3-yl)-benzenesulfonyl]-1H-indazole | 89.2 mg | CN1C[C@@H](CC1)C1=CC=C(C=C1)S(=O)(=O)C=1C=C2C=NNC2=CC1 | C18H19N3O2S
